US06774132B1
(S)-5,6-Dimethylspiro[7-azaindoline-3,3′-(1,2,3,6-tetrahydropyridin)]-2-one Hydrochloride
(S)-5,6-Dimethylspiro[7-azaindoline-3,3′-(1,2,3,6-tetrahydropyridin)]-2-one dihydrochloride. The compound from STEP E, second peak (190 mg), was deprotected using 0.5 M HCl in methanol-ether at room temperature for 15 h. Evaporation of solvents gave the title compound in quantitative yield. It is tentatively assigned the S configuration based on its elution pattern on the chiral column. MS (TSP+) m/z [M+H]+: 230. 1H-NMR (d4-MeOH): 7.80 (s, 1H), 6.11 (d, 1H), 5.54 (d, 1H), 3.75 (m, 2H), 3.52 (dd, 2H), 2.4 (s, 3H), 218 (s, 2H).

reactant | (S)-5,6-Dimethylspiro[7-azaindoline-3,3′-(1,2,3,6-tetrahydropyridin)]-2-one dihydrochloride | Cl.Cl.CC=1C=C2C(=NC1C)NC([C@]21CNCC=C1)=O
reactant | HCl | 0.5 M | Cl | ClH
product | (S)-5,6-Dimethylspiro[7-azaindoline-3,3′-(1,2,3,6-tetrahydropyridin)]-2-one Hydrochloride | quantitative yield | Cl.CC=1C=C2C(=NC1C)NC([C@]21CNCC=C1)=O | InChI=1S/C13H15N3O.ClH/c1-8-6-10-11(15-9(8)2)16-12(17)13(10)4-3-5-14-7-13;/h3-4,6,14H,5,7H2,1-2H3,(H,15,16,17);1H/t13-;/m1./s1
